US06946559B2
Production of 5-bromo-3-formylpyridine
n-Butylmagnesium chloride (4.00 mmol) in 2.00M tetrahydrofuran solution (2.00 mL) was added to ice-cooled n-butyllithium (8.06 mmol) in 1.55M hexane (5.20 mL). The mixture was stirred at 0° C. for 15 minutes to give a suspension. The suspension was added to a mixture of toluene (15 mL) and tetrahydrofuran (10 mL) containing 2,5-dibromo-pyridine (2.37 g, 10.0 mmol) over a period of 10 minutes or more while keeping the temperature below 5° C. to give an orange solution. The solution was stirred at 0° C. for one hour, and N,N-dimethylformamide (1.0 mL, 13 mmol)was added thereto. The resultant suspension was stirred at room temperature for 30 minutes, and tetrahydrofuran (10 mL) was added, followed by further stirring at room temperature for 30 minutes. After addition of 1M aqueous acetic acid (20 mL) to the suspension, the organic phase was separated, and the aqueous phase was extracted with toluene (20 mL). The organic phase and the toluene extract were combined, washed with an aqueous sodium chloride saturated solution (15 mL), dried over magnesium sulfate and concentrated under reduced pressure to remove the solvent. The resultant residue was purified by flash column chromatography on silica gel in a developing solvent system of hexane-ethyl acetate (10:1, v/v) to give the title compound (1.062 g, 57% yield) as a colorless solid.

reactant | n-Butylmagnesium chloride | 4.00 mmol | C(CCC)[Mg]Cl
reactant | n-butyllithium | 8.06 mmol | C(CCC)[Li]
reactant | 2,5-dibromo-pyridine | 10.0 mmol, 2.37 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | N,N-dimethylformamide | 13 mmol, 1.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2.00M, 2.00 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.55M, 5.20 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 1M, 20 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-3-formylpyridine | 1.062 g, 57% yield | BrC=1C=C(C=NC1)C=O | C6H4BrNO
